US04572910
Preparation of 7-Methyl-5-(1-piperazinyl)-1,2,4-triazolo[1,5-c]pyrimidine by Scheme IV
A mixture of 6.00 g (33.3 mmole) of 7-methyl-5-methylthio-1,2,4-triazolo[4,3-c]pyrimidine, 30.0 g (0.35 mmole) of piperazine and 250 ml of dioxane was refluxed under nitrogen for six days. The mixture was cooled and concentrated in vacuo. The residue obtained was dissolved in 150 ml of water, and the solution was extracted four times with 150 ml portions of chloroform. The extracts were washed thrice with 150 ml portions of water and twice with 150 ml portions of sodium chloride solution and were dried over magnesium sulfate. Evaporation provided a yellow solid which was taken up in 150 ml of chloroform, filtered and chromatographed on a high pressure liquid chromatograph, eluting with methanol-ethyl acetate (1:1). Infrared and nuclear magnetic resonance spectral analyses showed fractions 2 and 3 to be 7-methyl-5-(1-piperazino)-1,2,4-triazolo-[1,5-c]pyrimidine, m.p. 92-95 C. Analysis: Calculated for C10H14N6 : %C, 55.0; %H, 6.5; %N, 38.5; Found: %C, 54.8; %H, 6.4; %N, 38.3. Fraction 4 contained about 15% of 7-methyl-5-(1-piperazino)-1,2,4-triazolo[4,3-c]pyrimidine.

reactant | 7-methyl-5-methylthio-1,2,4-triazolo[4,3-c]pyrimidine | 33.3 mmole, 6.00 g | CC1=CC=2N(C(=N1)SC)C=NN2 | C7H8N4S
reactant | piperazine | 0.35 mmole, 30.0 g | N1CCNCC1 | C4H10N2
reactant | dioxane | 250 ml | O1CCOCC1 | C4H8O2
solvent | water | 150 ml | O | H2O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-Methyl-5-(1-piperazinyl)-1,2,4-triazolo[1,5-c]pyrimidine | CC1=CC=2N(C(=N1)N1CCNCC1)N=CN2 | C10H14N6
